US04349684
7-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid ethyl ester
The product is obtained as described in example 1 from 2.1 g of NaH (80% suspension in mineral oil), 18.5 g of 1-ethyl-4.5-diphenyl-4-imidazolin-2-one, 140 cc. of DMF, 13.5 g of 7-chloroenanthic acid ethyl ester and 2.1 g of NaJ.

reactant | NaH | 2.1 g | [H-].[Na+]
reactant | 1-ethyl-4.5-diphenyl-4-imidazolin-2-one | 18.5 g | C(C)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H16N2O
reactant | 7-chloroenanthic acid ethyl ester | 13.5 g | C(C)OC(CCCCCCCl)=O | C9H17ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid ethyl ester | C(C)OC(CCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CC)=O)=O | C26H32N2O3
